US08981085B2
TFA (0.020 mL, 0.26 mmol) was added to (R)-tert-butyl 5-bromo-4-(3-(tert-butoxycarbonyl(methyl)amino)piperidin-1-yl)-3-(1-methyl-6-oxo-1,6-dihydropyridine-3-carboxamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (0.034 g, 0.052 mmol) in DCM (1 mL). The reaction mixture was stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in DCM (1 mL), and 2N HCl in ether (3 mL) was added. The solid formed was collected to give (R)—N-(5-bromo-4-(3-(methylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxamide hydrochloride (25 mg, 91%) as a solid. 1H NMR (400 MHz, D2O) δ 8.34 (s, 1H), 8.30 (s, 1H), 7.97 (dd, 1H), 7.35 (s, 1H), 6.60 (d, 1H), 3.88 (m, 1H), 3.53 (s, 3H), 3.39 (m, 2H), 3.08 (m, 2H), 2.55 (s, 3H), 2.04 (m, 1H), 1.68 (m, 1H), 1.60 (m, 1H), 1.35 (m, 1H). LCMS (APCI+) m/z 459 (M+H)+.

reactant | TFA | 0.26 mmol, 0.020 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-tert-butyl 5-bromo-4-(3-(tert-butoxycarbonyl(methyl)amino)piperidin-1-yl)-3-(1-methyl-6-oxo-1,6-dihydropyridine-3-carboxamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.052 mmol, 0.034 g | BrC=1C(=C2C(=NC1)N(C=C2NC(=O)C2=CN(C(C=C2)=O)C)C(=O)OC(C)(C)C)N2C[C@@H](CCC2)N(C)C(=O)OC(C)(C)C | C30H39BrN6O6
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-bromo-4-(3-(methylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxamide hydrochloride | 25 mg, 91% | Cl.BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=CN(C(C=C2)=O)C)N2C[C@@H](CCC2)NC | InChI=1S/C20H23BrN6O2.ClH/c1-22-13-4-3-7-27(11-13)18-14(21)8-23-19-17(18)15(9-24-19)25-20(29)12-5-6-16(28)26(2)10-12;/h5-6,8-10,13,22H,3-4,7,11H2,1-2H3,(H,23,24)(H,25,29);1H/t13-;/m1./s1
